US04029648
The procedure described in Example 10 hereinbefore was repeated except that 1 gram of 3-isobutoxy-13β-methylgona-1,3,5(10)-trien-17-one was substituted for the 3-n-propoxy-13β-methylgona-1,3,5(10)-trien-17-one that was used in that example. In this manner, 0.8 gram of 3-isobutoxy-13β-methylgona-1,3,5(10),9(11)-tetraen-17-one was obtained after distillation of the dichloromethane from the electrolyzed solution and precipitation by adding a small amount of water to the remaining solution. This compound, after recrystallization from a mixture of dichloromethane and methanol, had a melting point of 107°-108° C. and a specific optical rotation of +257.5° at a temperature of 25° C. for the sodium D line.

reactant | 3-isobutoxy-13β-methylgona-1,3,5(10)-trien-17-one | 1 gram | C(C(C)C)OC1=CC=2CC[C@@H]3[C@H](CC[C@@]4(C(CC[C@@H]34)=O)C)C2C=C1 | C22H30O2
reactant | 3-n-propoxy-13β-methylgona-1,3,5(10)-trien-17-one | C(CC)OC1=CC=2CC[C@@H]3[C@H](CC[C@@]4(C(CC[C@@H]34)=O)C)C2C=C1 | C21H28O2
product | 3-isobutoxy-13β-methylgona-1,3,5(10),9(11)-tetraen-17-one | 0.8 gram | C(C(C)C)OC1=CC=2CC[C@@H]3C(=CC[C@@]4(C(CC[C@@H]34)=O)C)C2C=C1 | C22H28O2
